US08003785B2
To a mixture of 0.125 g (0.257 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzoic acid (I-204) and 9 mL of dimethylformamide was added 0.0521 g (0.386 mmole) of 1-hydroxybenzotriazole, 0.146 g (0.385 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 0.140 g (1.081 mmole) of diisopropylethylamine. The mixture was stirred for 10 minutes, then 0.034 g (0.385 mmole) of N,N-dimethylethylenediamine was added. The reaction mixture was stirred for 2 hours and then concentrated under reduced pressure. The residue was dissolved in 80 mL of ethyl acetate and washed three times with 10 mL of 1M sodium hydroxide, twice with 15 mL of brine, dried, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.1188 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(2-dimethylamino-ethyl)-3-trifluoromethyl-benzamide (I-208) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzoic acid | 0.257 mmole, 0.125 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)C(F)(F)F | C21H20F5N5O3
reactant | 1-hydroxybenzotriazole | 0.386 mmole, 0.0521 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.385 mmole, 0.146 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 1.081 mmole, 0.140 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-dimethylethylenediamine | 0.385 mmole, 0.034 g | CN(CCN)C | C4H12N2
solvent | dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(2-dimethylamino-ethyl)-3-trifluoromethyl-benzamide | 0.1188 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NCCN(C)C)C=C2)C(F)(F)F | C25H30F5N7O2
